US05994355
Production of 2-[4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl]-4 5-dihydro-1,2,4-triazin-3(2H)-one
In 30 ml of acetonitrile was suspended 3.5 g of 1-benzylidene-2-[4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl]-4-(2,2-dimethoxyethyl)semicarbazide produced in Working Example 2. To the suspension was added 0.7 g of 35% hydrochloric acid, and the reaction was allowed to proceed for one hour at room temperature. After completion of the reaction, the reaction mixture was cooled for 30 minutes at temperatures ranging from 0 to 10° C., then resulting crystalline precipitate was collected by filtration to afford 2.3 g of the titled compound as colorless crystals, m.p. 166-167° C.

reactant | 1-benzylidene-2-[4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl]-4-(2,2-dimethoxyethyl)semicarbazide | 3.5 g | C(C1=CC=CC=C1)=NN(C(=O)NCC(OC)OC)C1=CC(=C(C(=C1)Cl)C(C1=CC=C(C=C1)Cl)C#N)Cl | C26H23Cl3N4O3
reactant | hydrochloric acid | 0.7 g | Cl | ClH
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-[4-(4-chloro-α-cyanobenzyl)-3,5-dichlorophenyl]-4 5-dihydro-1,2,4-triazin-3(2H)-one | 2.3 g | ClC1=CC=C(C(C#N)C2=C(C=C(C=C2Cl)N2N=CCNC2=O)Cl)C=C1 | C17H11Cl3N4O
